US09108934B2
(2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)amino]pentanoic Acid
5-Oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carboxylic acid (42.3 mg, 206 μmol) and HCTU (128 mg, 310 μmol) were combined in DMF, and stirred for 10 minutes at room temperature. DIPEA (72 μL, 413 μmol) and (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester (50 mg, 0.1 mmol) were added, and the resulting mixture was stirred at room temperature overnight. The mixture was combined with EtOH (402 μL, 6.9 mmol) and 1 M LiOH in water (1.1 mL, 1.1 mmol). The mixture was stirred at room temperature for 1 hour, evaporated under reduced pressure, and purified by preparative HPLC to yield the title compound (1.8 mg) as a TFA salt. MS m/z [M+H]+ calc'd for C26H23ClN4O5, 507.14. found 507.2.

reactant | 5-Oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carboxylic acid | 206 μmol, 42.3 mg | O=C1NC(=NN1C1=CC=CC=C1)C(=O)O | C9H7N3O3
reactant | HCTU | 310 μmol, 128 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 413 μmol, 72 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester | 0.1 mmol, 50 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)N)O)=O | C19H22ClNO3
reactant | EtOH | 6.9 mmol, 402 μL | CCO | C2H6O
reactant | LiOH | 1 M | [Li+].[OH-]
reactant | water | 1.1 mmol, 1.1 mL | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)amino]pentanoic Acid | 1.8 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)O)NC(=O)C1=NN(C(N1)=O)C1=CC=CC=C1 | C26H23ClN4O5
